US05175344
The starting material is manufactured as follows: Reaction of 2-methylene-pentanal with isocyanoacetic acid ethyl ester analogously to Example 1 yields 5-(penten-2-yl)-2-oxazoline-4-carboxylic acid ethyl ester. By hydrolysis of the 5-(penten-2-yl)-2-oxazoline-4-carboxylic acid ethyl ester in a manner analogous to that described in Example 15, 2-formylamino- 3-hydroxy-4-propyl-4-pentenoic acid ethyl ester is obtained. Reaction of the 2-formylamino-3-hydroxy-4-propyl-4-pentenoic acid ethyl ester with thionyl bromide and subsequent treatment with trimethyl phosphite in a manner analogous to that described in Example 1 yields E-2-formylamino-4-propyl-5-dimethylphosphono-3-pentenoic acid ethyl ester.

reactant | 2-formylamino-3-hydroxy-4-propyl-4-pentenoic acid ethyl ester | C(C)OC(C(C(C(=C)CCC)O)NC=O)=O | C11H19NO4
reactant | thionyl bromide | S(=O)(Br)Br | Br2OS
reactant | trimethyl phosphite | P(OC)(OC)OC | C3H9O3P
product | E-2-formylamino-4-propyl-5-dimethylphosphono-3-pentenoic acid ethyl ester | C(C)OC(C(\C=C(\CP(=O)(OC)OC)/CCC)NC=O)=O | C13H24NO6P
